US05977141
[4-(4-Phenyl-piperazin-1-yl)-benzenesulfonylamino]-acetic acid
In a manner similar to Example 3(b), (4-fluoro-benzenesulfonylamino)-acetic acid was condensed with 4-phenyl-piperazine to give the title compound, mp=120-124° C.

reactant | (4-fluoro-benzenesulfonylamino)-acetic acid | FC1=CC=C(C=C1)S(=O)(=O)NCC(=O)O | C8H8FNO4S
reactant | 4-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | [4-(4-Phenyl-piperazin-1-yl)-benzenesulfonylamino]-acetic acid | C1(=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NCC(=O)O | C18H21N3O4S
